US08865712B2
h) N-[1-(6-Bromo-pyridin-2-yl)-2-methoxymethoxy-1-methoxymethoxymethyl-ethyl]-2-chloro-acetamide
To a solution of 1-(6-bromo-pyridin-2-yl)-2-methoxymethoxy-1-methoxymethoxymethyl-ethylamine (15.0 g, 44.75 mmol) in DCM (150 ml) was added aqueous Na2CO3 solution (10.91 g, 102.925 mmmol in water, 30 ml) was added at 0° C. and stirred for 10 min. Chloroacetylchloride (5.56 g, 49.225 mmol) was added to the resultant reaction mixture at 0° C. stirring continued for 1 h at ambient temperature. Reaction mixture was diluted with DCM (˜1 l), and worked up the reaction mixture by washing with water, brine and dried over anhy. Na2SO4. Organic layer was separated and concentrated under reduced pressure to obtain title compound as a brown liquid. Yield=9.0 g (48%). TLC (50% ethyl acetate in hexane) Rf=0.54; LCMS: RtH7=1.341, [M+1]=411.0 and 413.0; HPLC: RtH9=4.27 min (50.4%); 1H NMR (400 MHz, CDCl3): δ 8.11 (d, 1H), 7.57-7.52 (m, 1H), 7.46-7.37 (m, 2H), 4.59-4.52 (m, 4H), 4.23-4.17 (m, 4H), 4.09-4.04 (m, 2H), 3.21 (s, 6H).

reactant | 1-(6-bromo-pyridin-2-yl)-2-methoxymethoxy-1-methoxymethoxymethyl-ethylamine | 44.75 mmol, 15.0 g | BrC1=CC=CC(=N1)C(COCOC)(COCOC)N | C12H19BrN2O4
reactant | Na2CO3 | 30 ml, 10.91 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Chloroacetylchloride | 49.225 mmol, 5.56 g | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | ˜1 l | C(Cl)Cl | CH2Cl2
product | N-[1-(6-Bromo-pyridin-2-yl)-2-methoxymethoxy-1-methoxymethoxymethyl-ethyl]-2-chloro-acetamide | BrC1=CC=CC(=N1)C(COCOC)(COCOC)NC(CCl)=O | C14H20BrClN2O5
